US04757102
[N,N-Diethylaminoxymethyl]-diallylamine
The procedure of Example I is repeated using 26.74 g of diethylhydroxylamine, 10.81 g of aqueous formaldehyde (37%) solution and 29.15 g of diallylamine, to afford the title compound.

reactant | diethylhydroxylamine | 26.74 g | C(C)N(O)CC | C4H11NO
reactant | formaldehyde | 10.81 g | C=O | CH2O
reactant | diallylamine | 29.15 g | C(C=C)NCC=C | C6H11N
product | [N,N-Diethylaminoxymethyl]-diallylamine | C(C)N(OCN(CC=C)CC=C)CC | C11H22N2O
